US04053601
A stirred mixture of ethyl 3-[4-chloro-2-(2,3-epoxypropoxy)benzoyl]propionate (3.0 g, 0.01 mole) methanol (28 ml) and t-butylamine (6.7 ml, 0.0625 mole) was heated under reflux for 70 minutes. The mixture was evaporated to an oily residue which was purified on a silica column by elution with mixtures of chloroform and methanol and recrystallisation from ether-petroleum ether (b.p. 40°-60°) to give ethyl 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-chlorobenzoyl]propionate (3.18 g, 88%, m.p. 70°).

reactant | ethyl 3-[4-chloro-2-(2,3-epoxypropoxy)benzoyl]propionate | 0.01 mole, 28 ml, 3.0 g | ClC1=CC(=C(C(=O)CCC(=O)OCC)C=C1)OCC1CO1 | C15H17ClO5
reactant | t-butylamine | 0.0625 mole, 6.7 ml | C(C)(C)(C)N | C4H11N
product | ethyl 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-chlorobenzoyl]propionate | 3.18 g, 88% | C(C)(C)(C)NCC(COC1=C(C(=O)CCC(=O)OCC)C=CC(=C1)Cl)O | C19H28ClNO5
